US06828320B2
(1-Benzyl-1H-indazol-5-yl)-[7-{5-[(2-methanesulphonyl-ethylamino)-methyl]-furan-2-yl}-quinazolin-4-yl]-amine
Prepared by an analogous method to Example 10 from 5-[4-(1-benzyl-1H-indazol-5-ylamino)-quinazolin-7-yl]-furan-2-carbaldehyde and 2-methanesulphonylethylamine; δH [2H6] DMSO 9.92(1H, bs), 8.60(1H, d), 8.55(1H, s), 8.25(1H, s), 8.17(1H, s), 8.00(2H, m), 7.72(2H, m), 7.30(6H, m), 6.53 (1H, d), 5.72(2H, s) 4.55 (1H, m), 3.87 (2H, m), 3.35 (2H, m), 3.08 (3H, s), 3.04 (2H, m); m/z (M+1+) 553.

reactant | 5-[4-(1-benzyl-1H-indazol-5-ylamino)-quinazolin-7-yl]-furan-2-carbaldehyde | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C1=CC=C(O1)C=O | C27H19N5O2
reactant | 2-methanesulphonylethylamine | CS(=O)(=O)CCN | C3H9NO2S
product | (1-Benzyl-1H-indazol-5-yl)-[7-{5-[(2-methanesulphonyl-ethylamino)-methyl]-furan-2-yl}-quinazolin-4-yl]-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C=1OC(=CC1)CNCCS(=O)(=O)C | C30H28N6O3S
